US07410985B2
Preparation of 3-Benzyloxy-6-methyl-4-oxo-4H-pyran-2-carboxylic acid cyclohexylamide
1,1′-carbonyldiimidazole (1.99 g, 12.30 mmol) was added to a solution of the 3-(benzyloxy,-6-methyl-4-oxo-4H-pyran-2-carboxylic acid (2.0 g, 7.69 mmol) in dimethylformamide (DMF, 18 ml) at room temperature. The resulting solution was heated at 40°-50° C. for 3 hrs. A light yellow solution was observed. Cyclohexylamine (1.23 ml, 10.76 mmol) was then added. The resulting mixture was stirred at room temperature for overnight. The DMF was removed under reduced pressure to give light yellow oil as a crude product, which was purified by flash column chromatography (elution gradient: from 1:1 ethyl acetate/hexane to 10% methanol in ethyl acetate) to yield the titled compound (1.60 g, yield 61%) as white solid.

reactant | 1,1′-carbonyldiimidazole | 12.30 mmol, 1.99 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-methyl-4-oxo-4H-pyran-2-carboxylic acid | 7.69 mmol, 2.0 g | CC1=CC(C=C(O1)C(=O)O)=O | C7H6O4
reactant | Cyclohexylamine | 10.76 mmol, 1.23 ml | C1(CCCCC1)N | C6H13N
reactant | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-6-methyl-4-oxo-4H-pyran-2-carboxylic acid cyclohexylamide | 1.60 g, yield 61% | C1(CCCCC1)NC(=O)C=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C20H23NO4
